US04304770
A mixture of 7-[2-(3-isoxazolyl)methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.5 g), conc.hydrochloric acid (0.497 g), methanol (15 ml) and tetrahydrofuran (3 ml) was stirred for 2 hours at ambient temperature. The solvent was distilled off under reduced pressure and the residue was dissolved in a saturated aqueous solution of sodium bicarbonate. The aqueous solution was washed with ethyl acetate (25 ml) and adjusted to pH 1.5 with 10% hydrochloric acid. Precipitates were collected by filtration, washed with water and dried to give 7-[2-(3-isoxazoly)methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.65 g).

reactant | 7-[2-(3-isoxazolyl)methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.5 g | O1N=C(C=C1)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C22H20N10O7S3
reactant | hydrochloric acid | 0.497 g | Cl | ClH
reactant | methanol | 15 ml | CO | CH4O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 7-[2-(3-isoxazoly)methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.65 g | O1N=C(C=C1)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)N | C21H20N10O6S3
